US05821089
Hydroxyproline Incorporation into Human Collagen Protein in Escherichia coli Under Proline Starvation Conditions
A plasmid (pHuCol, FIG. 2) encoding the gene sequence of human Type I (α1) collagen (FIGS. 3A and 3B (Seq. ID No. 1placed behind the isopropyl-β-D-thiogalactopyranoside (IPTG)-inducible tac promotor and also encoding β-lactamase is transformed into Escherichia coli proline auxotrophic strain NM519 (pro-) by standard heat shock transformation. Transformation cultures are plated on Luria Broth (LB) containing 100 μg/ml ampicillin and after overnight growth a single ampicillin-resistant colony is used to inoculate 5 ml of LB containing 100 μg/ml ampicillin. After growth for 10-16 hours with shaking (225 rpm) at 37° C., this culture is used to inoculate 1 L of M9 minimal medium (M9 salts, 2% glucose, 0.01 mg/mL thiamine, 100 μg/ml ampicillin, supplemented with all amino acids at 20 μg/mL except proline which is supplemented at 12.5 mg/L) in a 1.5 L shaker flask. After growth at 37° C., 225 rpm, for 15-20 hours post-inoculation, the optical density at 600 nm is constant at approximately 0.5 OD/ml. The cells are harvested by centrifugation (5000 rpm, 5 minutes), the media decanted, and the cells resuspended in 1 L of M9 minimal media containing 100 μg/ml ampicillin, 0.08M L-hydroxyproline, and 0.5M NaCI. Following growth for 1 hour at 37° C., 225 rpm, IPTG is added to 1 mM and the cultures allowed to grow for an additional 5-15 hours. Cells are harvested by centrifugation (5000 rpm, 10 minutes) and lysed by mechanical disruption. Hydroxyproline-containing collagen is purified by ammonium sulfate fractionation and column chromatography.

reactant | isopropyl-β-D-thiogalactopyranoside | CC(C)S[C@H]1[C@@H]([C@H]([C@H]([C@H](O1)CO)O)O)O | C9H18O5S
reactant | proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | thiamine | CC1=C(SC=[N+]1CC=2C=NC(=NC2N)C)CCO
product | Hydroxyproline | N1[C@H](C(=O)O)C[C@@H](O)C1 | C5H9NO3
